US07700609B2
8-(3-Sulfamoyl-phenylamino)-thiazolo[4,5-h]quinazoline-2-carboxylic acid
8-(3-Sulfamoyl-phenylamino)-thiazolo[4,5-h]quinazoline-2-carboxylic acid ethyl ester (494 mg, 1.15mmol) was suspended in a mixture of EtOH (30 ml) and 1N sodium hydroxide (20 ml). The mixture was stirred at room temperature for 12 h. EtOH was removed in vacuo and the residual crude mixture was neutralised with 1N HCl (20 ml). The resulting solid was filtered and dried under vacuo to afford 0.473 g of a brownish solid. MS (ES+) 402, (ES−) 400. δH (d6 DMSO) 7.37 (2H, s), 7.50 (1H, d), 7.60 (1H, t), 8.06 (2H, s), 8.16 (1H, d), 8.62 (1H, s), 9.50 (1H, s), 10.52 (1H, s), 14.80 (1H, br s).

reactant | 8-(3-Sulfamoyl-phenylamino)-thiazolo[4,5-h]quinazoline-2-carboxylic acid ethyl ester | 1.15mmol, 494 mg | C(C)OC(=O)C=1SC2=C(C=CC=3C=NC(=NC23)NC2=CC(=CC=C2)S(N)(=O)=O)N1 | C18H15N5O4S2
solvent | EtOH | 30 ml | CCO | C2H6O
solvent | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
product | 8-(3-Sulfamoyl-phenylamino)-thiazolo[4,5-h]quinazoline-2-carboxylic acid | 0.473 g | S(N)(=O)(=O)C=1C=C(C=CC1)NC1=NC=2C3=C(C=CC2C=N1)N=C(S3)C(=O)O | C16H11N5O4S2
